US04182762
1.6 pts. by wt. of 5-chloro-furfural, 1.3 pts. by wt. of 1-amino-2,3-dioxo-piperazine and 7 pts. by vol. of glacial acetic acid are warmed to 90° C. for 10 minutes and then left for 30 minutes at RT. The precipitate is filtered off, washed first with 3 pts. by vol. of glacial acetic acid and then twice with 10 pts. by vol. of acetonitrile each time and dried in air. 1.8 pts. by wt. (74.6%) of 1-(5-chloro-furfurylidene-amino)-2,3-dioxo-piperazine are obtained as yellowish crystals of decomp. pt. 233°-6° C.

reactant | 5-chloro-furfural | ClC1=CC=C(C=O)O1 | C5H3ClO2
reactant | 1-amino-2,3-dioxo-piperazine | NN1C(C(NCC1)=O)=O | C4H7N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(5-chloro-furfurylidene-amino)-2,3-dioxo-piperazine | 74.6% | ClC1=CC=C(C=NN2C(C(NCC2)=O)=O)O1 | C9H8ClN3O3
